US09290496B2
To a solution of 3,3-dimethoxypyrrolidine-2,5-dione (12.3 g, 77 mmol) in toluene (500 mL) was added TsOH·water (1.46 g, 7.7 mmol). A Dean Stark Trap was attached and the reaction mixture was refluxed overnight. TLC (petroleum ether/EtOAc=1/1) showed the reaction was complete. The mixture was concentrated and purified by column chromatography (from petroleum ether/EtOAc=2/1 to petroleum ether/EtOAc=1/1) to afford 3-methoxy-1H-pyrrole-2,5-dione (6.9 g, 70% yield) as an orange solid.

reactant | 3,3-dimethoxypyrrolidine-2,5-dione | 77 mmol, 12.3 g | COC1(C(NC(C1)=O)=O)OC | C6H9NO4
reactant | TsOH·water | 7.7 mmol, 1.46 g | CC=1C=CC(=CC1)S(=O)(=O)O.O
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | 3-methoxy-1H-pyrrole-2,5-dione | 6.9 g, 70% yield | COC=1C(NC(C1)=O)=O | C5H5NO3
